Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left hemidiaphragm paralysis
 
Major Surgical or Invasive Procedure:
___ ROBOTIC VIDEO ASSISTED THORASCOPIC LEFT DIAPHRAGM 
PLICATION
 
History of Present Illness:
___ with hx asthma, seasonal rhinitis, and OSA, referred with
paralysis of left hemi-diaphragm.  

In the ___, he had a low-grade fever. Work-up failed to 
reveal
a cause. Then in ___, he spiked a temp of 104.8 and was
hospitalized for 3 days at ___ with a presumed 
viral
infection. CT Chest noted new elevation of the left
hemidiaphragm. SNIFF test done ___ demonstrated paralysis of
the left hemidiaphragm. ECHO ___: normal; EF 55% He is
referred for surgical eval/mgt.

Since ___, he reports significant DOE with activities such as
walking upstairs and running. At baseline, he could run 2.5
miles, but now becomes SOB/light-headed after running for a
minute and a half. His DOE improves with rest. There have been 
no
change in his symptoms since ___. No F/C currently. Does have
some L sided rib-pain with exertion. 
 
 
Past Medical History:
Sleep apnea, uses Bipap
Asthma - mild, rarely has needed inhaler
Anxiety
Rosacea
Hypertension
Hyperlipidemia
Low testosterone
Hand eczema since childhood

 
Social History:
___
Family History:
Father: ___, diabetes, history of tuberculosis
Mother: Living at age ___
Brother: Healthy
Grandfather died of colorectal cancer
 
Physical Exam:
Initial: 
PE:Vital Signs sheet entries for ___: 
BP: 135/78. Heart Rate: 104. O2 Saturation%: 98. Weight: 230.3
(With Clothes; With Shoes). BMI: 33.5. Temperature: 98.4. Resp.
Rate: 16. Pain Score: 0. Distress Score: 0.
Gen:NAD
Chest:Clear to ausc
Cor:RRR
Extrem:No CCE

Discharge:
24 HR Data (last updated ___ @ 753)
    Temp: 98.0 (Tm 98.5), BP: 122/81 (122-168/66-102), HR: 80
(80-101), RR: 18 (___), O2 sat: 97% (91-97), O2 delivery: Ra
___: BMI: 32.3
Fluid Balance (last updated ___ @ 754)
  Last 8 hours  Total cumulative -1560ml
    IN: Total 240ml,  PO amount 240ml
    OUT:  Total 1800ml, Urine amount 1800ml
  Last 24 hours  Total cumulative -2140ml
    IN: Total 580ml,  PO amount 580ml
    OUT:  Total 2720ml, Urine amount 2700ml, Emesis 20ml

Gen: [x] NAD, [x] AAOx3
CV: [x] RRR, [] murmur
Resp: [x] breaths unlabored, [x] CTAB, [] wheezing, [] rales
Abdomen: [x] soft, [] distended, [] tender, [] rebound/guarding
Wound: [x] incisions clean, dry, intact
Ext: [x] warm, [] tender, [] edema
 
Pertinent Results:
CXR ___
IMPRESSION: 
 
No discrete pneumothorax identified.  A chest tube projects over 
the left lung
base.
 
Elevation of the right hemidiaphragm likely secondary to right 
lower lobe
volume loss.
 
CXR ___
IMPRESSION: 
 
Overall, no significant interval change in the appearance of the 
chest
compared to the exam performed 16 hours prior.  There has been 
interval
extubation of the ETT.

CXR ___
IMPRESSION: 
 
Comparison to ___.  Mildly increasing retrocardiac 
and right
basal atelectasis.  Stable air collection in the left-sided soft 
tissues. 
Stable appearance of the ribs and of the moderately enlarged 
cardiac
silhouette.  The lateral radiograph documents the areas of 
atelectasis but
does not show evidence of effusions.
 

KUB ___
IMPRESSION: 
 
Moderate stool burden without signs of obstruction.

CXR ___

IMPRESSION: 
 
Heart size is top-normal, unchanged.  Elevated right 
hemidiaphragm is
unchanged.  Minimal small left pleural effusion is unchanged. 
There is no
appreciable pneumothorax or new consolidations.
 
 
Brief Hospital Course:
Patient underwent left VATS diaphragm plication on ___.  
Initially postoperatively, he had significant pain but his pain 
was able to be controlled in the PACU, he had no dyspnea.  
Postoperative chest x-ray showed his left hemidiaphragm was 
significantly lower than his preoperative chest x-ray, without 
pneumothorax.  Overnight, he had some difficulty with pain 
control and tachycardia believed secondary to pain and anxiety.  
He failed to void, requiring straight catheterization.  His 
chest tube remained without air leak during the day of ___ 
his chest tube was removed without postpull pneumothorax.  He 
failed to void, requiring replacement of a Foley catheter and he 
was started on Flomax.  That evening, he had increasing 
abdominal pain and distention.  Serial abdominal exams remained 
benign.  The morning of ___ he reported that his pain had 
improved following a bowel movement and passage of flatus.  His 
Foley catheter was removed to allow another voiding trial, which 
he failed requiring replacement of Foley catheter.  That 
evening, he had increasing abdominal pain and a KUB showed 
moderate stool burden and nonspecific bowel gas pattern.  He is 
given a suppository which helped his pain.  On ___, his 
Foley was removed and he ultimately was able to void 
spontaneously multiple times.  He was discharged home with his 
pain well controlled, no dyspnea and and comfortably ambulating 
on room air, no nausea/vomiting, and voiding spontaneously.  He 
will follow-up in clinic with Dr. ___ in 2 weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Testosterone Gel 1% 50 mg TP DAILY 
2. Lisinopril 10 mg PO QHS 
3. BusPIRone 15 mg PO BID 
4. LORazepam 0.5 mg PO Q8H:PRN anxiety 
5. Fluocinonide 0.05% Cream 1 Appl TP DAILY 
6. Hydrocortisone (Rectal) 2.5% Cream ___AILY 
7. tadalafil 5 mg oral DAILY:PRN ED 
8. albuterol sulfate 90 mcg/actuation inhalation QID:PRN 
wheezing 
9. PARoxetine 30 mg PO DAILY 
10. TraZODone 100 mg PO QHS 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q3H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*25 Tablet Refills:*0 
2.  albuterol sulfate 90 mcg/actuation inhalation QID:PRN 
wheezing  
3.  BusPIRone 15 mg PO BID  
4.  Fluocinonide 0.05% Cream 1 Appl TP DAILY  
5.  Hydrocortisone (Rectal) 2.5% Cream ___AILY  
6.  Lisinopril 10 mg PO QHS  
7.  LORazepam 0.5 mg PO Q8H:PRN anxiety  
8.  PARoxetine 30 mg PO DAILY  
9.  tadalafil 5 mg oral DAILY:PRN ED  
10.  Testosterone Gel 1% 50 mg TP DAILY  
11.  TraZODone 100 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left hemidiaphragm paralysis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for lung surgery and you've 
recovered well. You are now ready for discharge. 

* Continue to use your incentive spirometer 10 times an hour 
while awake.

* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.

* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.

* You may need pain medication once you are home but you can 
wean it over the next week as the discomfort resolves.  Make 
sure that you have regular bowel movements while on narcotic 
pain medications as they are constipating which can cause more 
problems.  Use a stool softener or gentle laxative to stay 
regular.

* No driving while taking narcotic pain medication.

* Take Tylenol on a standing basis to avoid more opiod use.

* Continue to stay well hydrated and eat well to heal your 
incisions

* No heavy lifting > 10 lbs for 4 weeks.

* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
  * No tub bathing, swimming or hot tubs until incision healed
  * No lotions or creams to incision site

* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

 Call Dr. ___, Dr. ___, Dr. ___, Dr. ___ 
___ if you experience:
  -Fevers > 101 or chills
  -Increased shortness of breath, chest pain or any other 
symptoms that concern you.

** If pathology specimens were sent at the time of surgery, the 
reports will be reviewed with you in detail at your follow up 
appointment. This will give both you and your doctor time to 
understand the pathology, its implications and discuss options 
going forward.**

 
 
Followup Instructions:
___